US09085576B2
A RBF was charged with methyl 5-chloropyrazine-2-carboxylate (1.239 g, 7.18 mmol, Ark Pharm), thiazol-4-ylmethanol (0.8266 g, 7.18 mmol), cesium carbonate (0.689 ml, 8.61 mmol, Alfa Aesar) and DMF (20.51 ml). The reaction mixture was stirred at 40° C. for 3 days. The reaction mixture was allowed to cool to rt and was diluted with water and extracted with EtOAc. The organic extract was washed with water, satd NaCl, dried over MgSO4, and concentrated in vacuo. The crude product was adsorbed onto a plug of silica gel and purified by silica gel flash chromatography, eluting with a gradient of 10% to 100% EtOAc in hexane, to provide methyl 5-(thiazol-4-ylmethoxy)pyrazine-2-carboxylate (0.7606 g, 3.03 mmol, 42.2% yield). MS m/z=252.1 [M+H]+. Calculated for C10H9N3O3S: 251.036. 1H NMR (400 MHz, DMSO-d6) δ ppm 3.89 (s, 2H) 5.60 (s, 1H) 7.86 (d, J=1.96 Hz, 1H) 8.46 (d, J=1.37 Hz, 1H) 8.86 (d, J=1.37 Hz, 1H) 9.14 (d, J=1.96 Hz, 1H)

reactant | methyl 5-chloropyrazine-2-carboxylate | 7.18 mmol, 1.239 g | ClC=1N=CC(=NC1)C(=O)OC | C6H5ClN2O2
reactant | thiazol-4-ylmethanol | 7.18 mmol, 0.8266 g | S1C=NC(=C1)CO | C4H5NOS
reactant | cesium carbonate | 8.61 mmol, 0.689 ml | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 20.51 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | methyl 5-(thiazol-4-ylmethoxy)pyrazine-2-carboxylate | 3.03 mmol, 0.7606 g, 42.2% yield | S1C=NC(=C1)COC=1N=CC(=NC1)C(=O)OC | C10H9N3O3S
